US07674789B2
3-{8-(2,6-difluorophenyl)-2-[[2-(dimethylamino)ethyl](methyl)amino]-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl}-N-(4-fluorophenyl)-4-methylbenzamide
To a solution of compound 3-[8-(2,6-difluorophenyl)-2-(methylsulfinyl)-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl]-N-(4-fluorophenyl)-4-methylbenzamide (40 mg, 0.073 mmol) in THF (3 mL) and DMF (0.5 mL) were added N,N,N′-trimethyl-1,2-ethanediamine (0.047 mL, 0.364 mmol). The resultant solution was stirred at room temperature over night. The result mixture was concentrated. CombiFlash chromatography (mobile phase DCM/DCM[90]+MeOH[7]+NH4OH[3]) provided the title compound as a white solid (11 mg, 26%). LC-MS m/z 590 (M+H)+; 1H-NMR (MeOD) δ 2.18 (s, 6H), 2.40 (m, 5H), 3.02 (m, 3H), 3.50 (m, 2H), 4.17 (s, 2H), 7.15 (m, 4H), 7.52 (m, 2H), 7.71 (m, 2H), 7.82 (s, 1H), 7.97 (d, 1H).

reactant | 3-[8-(2,6-difluorophenyl)-2-(methylsulfinyl)-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl]-N-(4-fluorophenyl)-4-methylbenzamide | 0.073 mmol, 40 mg | FC1=C(C(=CC=C1)F)N1C(NCC2=C1N=C(N=C2C=2C=C(C(=O)NC1=CC=C(C=C1)F)C=CC2C)S(=O)C)=O | C27H20F3N5O3S
reactant | N,N,N′-trimethyl-1,2-ethanediamine | 0.364 mmol, 0.047 mL | CN(CCNC)C | C5H14N2
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | 3-{8-(2,6-difluorophenyl)-2-[[2-(dimethylamino)ethyl](methyl)amino]-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl}-N-(4-fluorophenyl)-4-methylbenzamide | 11 mg, 26% | FC1=C(C(=CC=C1)F)N1C(NCC2=C1N=C(N=C2C=2C=C(C(=O)NC1=CC=C(C=C1)F)C=CC2C)N(C)CCN(C)C)=O | C31H30F3N7O2
